Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
Dupuytren's contracture left hand
 
Major Surgical or Invasive Procedure:
s/p left palmar fasciectomy with left radial artery fascial flap 
and STSG of the palm and fifth digit, CTS release

 
History of Present Illness:
___ is a middle-aged psychiatrist from the ___
area who presents with recurrent Dupuytren's involving her
left palm ___ finger as well as to lesser involvement of the
index, long, and ring fingers.  She has a family history of
Dupuytren's and some nodularity on the foot.  She previously
had surgery at a local ___, ___, several times in the ___ finger and had a very
rapid recurrence soon after the surgery.  She presented in
the office recently with a 90-degree flexion contracture of
the ___ finger and 90 degrees at the PIP joint and 90 degrees
at the MP joint.  Ring finger was tightly flexed and into the
palm and the ring finger to a lesser extent; however, most of
the involvement of the ring finger was within the palm.  On
the index, long, and ring fingers, she had nodules over the
proximal phalangeal level in the midline, with deep pits in
the PIP flexion creases.  Palmar disease to these 3 fingers
has not significantly developed at this point in time.  There
is a small band at the base of the thumb.  On the opposite
hand, she had the same malformation.  She has become quite
frustrated with a very rapid recurrence after her release and
Z-plasties previously about a year ago.  She is brought to
the OR for a rather significant approach, which was discussed
in detail preoperatively.  This included complete release of
the graft, revascularization of the5th finger if necessary,
preservation of the nerves, and resurfacing.  This would
require a regional fascial flap based on the radial artery
and a graft from the hypothenar region.  All of these
procedures were done in a lengthy, albeit difficult,
procedure today.

 
Social History:
___
Family History:
NC
 
Physical Exam:
___ dressing c/d/i
 
Brief Hospital Course:
___ was admitted to the floor for pain control following her 
operation. Her stay was uneventful and she was discharged the 
following day. 
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*28 Capsule Refills:*0 
2.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN Pain 
- Moderate Duration: 7 Days 
Patient may partial fill.  
RX *hydrocodone-acetaminophen [Vicodin] 5 mg-300 mg 1 tablet(s) 
by mouth every four (4) hours Disp #*42 Tablet Refills:*0 
3.  ketorolac 10 mg oral Q6H 
RX *ketorolac 10 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*12 Tablet Refills:*0 
4.  Ondansetron 4 mg PO Q8H:PRN nausea Duration: 7 Days 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dupuytren's Contracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity:  
1. You may resume your regular diet.   
2. Please keep left upper extremity elevated. All dressing and 
wraps should be kept on

. 
Medications:  
1. Resume your regular medications unless instructed otherwise 
and
 take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe ___
n. You may switch to Tylenol 
or Extra Strength Tylenol for mild pain as directed on the 
packaging
.  
3. Take prescription pain medications for pain not relieved by 
tyleno
l.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescript
ion pain medication. You 
may use a different over-the-counter stool softener if you wish. 
 
5. Do not drive or operate heavy machinery while taking any 
narcotic pain m
edication. You may have 
constipation when taking narcotic pain medications (oxycodone, 
percocet, vicodin, hydrocodone, dilaudid, 
etc.); you should continue drinking fluids, you may take stool 
soften
ers, and should eat foods that are 
high in fiber.  
. 
Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, sw
___, warmth or tenderness at the surgical 
site, or unusual drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
. 
Return to the ER if:   
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) ___
es, increased redness, 
swelling or discharge from incision, chest pain, shortness of
 breath, or anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern 
you.

 
Followup Instructions:
___